US06984653B2
(ii) Production of [1-(4-{4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-1,2,3-triazol-4-yl]methanol
Lithium aluminium hydride (35 mg) was added to a solution of ethyl 1-(4-{4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-1,2,3-triazole-4-carboxylate (500 mg) in THF (10 ml) at 0° C., and the mixture was stirred for 30 min. After the reaction was completed, the reaction mixture was combined with diethyl ether and water and filtered with Celite. The solvent was evaporated under reduced pressure, and the residue was recrystallized from ethyl acetate-hexane to give the titled compound (435 mg) as a colorless crystal powder.

reactant | Lithium aluminium hydride | 35 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-(4-{4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-1,2,3-triazole-4-carboxylate | 500 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC(=C1)C(=O)OCC)(F)F | C28H27F3N4O4
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [1-(4-{4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-1,2,3-triazol-4-yl]methanol | 435 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC(=C1)CO)(F)F | C26H25F3N4O3
